T1 (net7 net10 net10 0) nfet L=7.89E-6 W=9.43E-6
C2 (net36 net29) C=3.7E-14
R3 ( net26 net16)  R=8.3E2
T4 ( net16 net16 0 0)  nfet  L=4.22E-6 W=1.56E-6
T5 ( net29 net16 0 0)  nfet  L=4.22E-6 W=1.56E-6
C6 (net6 net14) C=4.1E-9
T7 ( net13 net13 vdd! vdd!)  pfet  L=3.72E-6 W=2.69E-6
T8 ( net33 net13 vdd! vdd!)  pfet  L=3.72E-6 W=2.69E-6
R9 ( net33 vdd!)  R=0.7E0
C10 (net18 net36) C=0.2E-5
T11 (0 net13 net13 0) pfet L=9.78E-6 W=4.39E-6
T12 (net37 net9 net9 0) nfet L=3.56E-6 W=3.15E-6
C13 (net21 net18) C=9.8E-13
C14 (vdd! net17) C=4.0E-6
R15 (net15 net7) R=7.3E4
T16 (0 net11 net11 0) nfet L=0.89E-6 W=0.74E-6
C17 (net23 net17) C=9.8E-10
C18 (net31 net26) C=3.3E-12
T19 (net19 net8 net8 0) nfet L=7.91E-6 W=3.30E-6
C20 (net13 0) C=3.2E-5
T21 (net29 net39 net39 0) nfet L=9.54E-6 W=8.41E-6
C22 (net34 net24) C=6.5E-11
R23 (net42 net29) R=3.2E3
T24 (vdd! net27 net27 0) nfet L=7.31E-6 W=5.41E-6
T25 (net39 net36 net36 0) pfet L=8.89E-6 W=1.06E-6
T26 (net41 vdd! vdd! 0) nfet L=1.31E-6 W=5.80E-6
C27 (net37 net1) C=4.9E-7
T28 (net31 net6 net6 0) nfet L=7.50E-6 W=6.70E-6
T29 (vdd! net34 net34 0) pfet L=7.11E-6 W=3.35E-6
C30 (net5 net29) C=4.4E-9
T31 (net4 net27 net27 0) pfet L=7.84E-6 W=7.79E-6
T32 (net12 net23 net23 0) pfet L=8.40E-6 W=2.58E-6
T33 (net11 net35 net35 0) nfet L=9.57E-6 W=9.37E-6
T34 (net43 net39 net39 0) pfet L=5.07E-6 W=9.54E-6
T35 (net4 net10 net10 0) pfet L=3.52E-6 W=3.37E-6
C36 (net6 net23) C=1.2E-8
T37 (net32 net31 net31 0) pfet L=1.51E-6 W=2.50E-6
T38 (net10 net11 net11 0) nfet L=1.72E-6 W=6.32E-6
T39 (net42 net28 net28 0) nfet L=6.40E-6 W=9.83E-6
C40 (net38 net21) C=2.5E-14
C41 (net39 net30) C=5.3E-11
T42 (net23 vdd! vdd! 0) nfet L=4.77E-6 W=6.16E-6
T43 (net40 vdd! vdd! 0) nfet L=2.80E-6 W=4.23E-6
T44 (net40 net11 net11 0) pfet L=1.81E-6 W=3.22E-6
T45 (net4 0 0 0) nfet L=6.93E-6 W=9.53E-6
R46 (net35 net43) R=3.0E3
T47 (0 vdd! vdd! 0) pfet L=6.85E-6 W=9.08E-6
T48 (net17 0 0 0) pfet L=3.12E-6 W=6.67E-6
T49 (net26 net38 net38 0) pfet L=0.30E-6 W=1.68E-6
T50 (net22 net20 net20 0) pfet L=2.27E-6 W=2.92E-6
R51 (0 net25) R=8.6E6
R52 (net11 net7) R=9.9E5
C53 (net39 net17) C=9.7E-10
C54 (net34 net39) C=2.7E-10
C55 (net17 net36) C=5.2E-6
C56 (net41 net14) C=5.8E-9
T57 (0 net14 net14 0) nfet L=4.52E-6 W=3.72E-6
C58 (vdd! net18) C=5.6E-9
T59 (net12 net8 net8 0) pfet L=6.50E-6 W=9.97E-6
C60 (net28 net22) C=9.3E-10
R61 (net30 vdd!) R=5.1E0
R62 (net26 net22) R=8.2E4
R63 (net5 net17) R=8.0E4
R64 (net43 net41) R=5.7E4
T65 (net4 net2 net2 0) pfet L=3.61E-6 W=1.98E-6
T66 (net41 net41 net41 0) pfet L=1.60E-6 W=4.42E-6
C67 (net10 net22) C=4.1E-12
C68 (net12 net2) C=7.5E-12
T69 (net1 net3 net3 0) pfet L=5.27E-6 W=1.17E-6
C70 (0 net1) C=6.3E-10
T71 (vdd! net32 net32 0) pfet L=0.29E-6 W=4.62E-6
T72 (0 0 0 0) nfet L=8.53E-6 W=9.53E-6
C73 (net23 net21) C=4.0E-5
R74 (net5 net37) R=3.3E6
R75 (net5 net31) R=9.1E0
C76 (net15 net32) C=0.3E-14
R77 (net23 net30) R=3.5E3
T78 (net38 net41 net41 0) pfet L=5.71E-6 W=8.63E-6
T79 (net10 net4 net4 0) pfet L=7.88E-6 W=0.49E-6
T80 (net9 net35 net35 0) nfet L=7.01E-6 W=2.03E-6
C81 (net36 net5) C=4.0E-9
C82 (net43 net11) C=8.4E-10
T83 (net38 0 0 0) pfet L=5.23E-6 W=2.31E-6
R84 (net26 net13) R=4.0E6
C85 (net20 net22) C=8.8E-14
T86 (net24 net22 net22 0) pfet L=9.02E-6 W=0.59E-6
T87 (net35 net35 net35 0) pfet L=3.75E-6 W=2.35E-6
T88 (net3 net1 net1 0) nfet L=0.85E-6 W=3.58E-6
T89 (net20 net9 net9 0) nfet L=6.93E-6 W=8.35E-6
C90 (net38 net37) C=4.1E-5
R91 (net26 net14) R=5.2E4
R92 (net26 net14) R=0.5E6
T93 (net24 net11 net11 0) nfet L=7.22E-6 W=9.51E-6
T94 (net42 net7 net7 0) pfet L=6.43E-6 W=3.40E-6
R95 (net9 net14) R=6.7E5
C96 (net9 net37) C=4.5E-8
C97 (net27 net41) C=6.1E-7
T98 (0 net13 net13 0) pfet L=5.27E-6 W=2.21E-6
R99 (net7 net8) R=9.0E2
T100 (net4 net9 net9 0) pfet L=9.78E-6 W=1.30E-6
C101 (net37 net23) C=0.2E-11
T102 (net34 net12 net12 0) pfet L=8.66E-6 W=8.03E-6
T103 (net13 net10 net10 0) nfet L=4.39E-6 W=3.79E-6
T104 (net21 net37 net37 0) pfet L=0.21E-6 W=0.35E-6
T105 (net42 net36 net36 0) nfet L=3.20E-6 W=1.06E-6
T106 (net29 net1 net1 0) pfet L=4.35E-6 W=7.67E-6
T107 (net1 net22 net22 0) pfet L=2.70E-6 W=0.45E-6
T108 (net14 net6 net6 0) pfet L=6.45E-6 W=5.01E-6
T109 (net21 net7 net7 0) pfet L=7.83E-6 W=5.51E-6
T110 (vdd! vdd! vdd! 0) pfet L=2.73E-6 W=8.88E-6
C111 (net41 net26) C=1.6E-6
C112 (net39 net15) C=6.3E-11
C113 (net4 net13) C=4.3E-13
R114 (net9 net8) R=7.1E6
C115 (net20 0) C=3.0E-13
T116 (net9 net30 net30 0) pfet L=6.22E-6 W=7.24E-6
T117 (net9 net38 net38 0) nfet L=7.85E-6 W=2.86E-6
T118 (net12 vdd! vdd! 0) nfet L=8.74E-6 W=8.75E-6
R119 (0 net38) R=9.3E1
T120 (net41 net7 net7 0) pfet L=9.82E-6 W=6.58E-6
T121 (net26 net7 net7 0) pfet L=3.15E-6 W=9.67E-6
T122 (net6 net21 net21 0) nfet L=7.19E-6 W=3.28E-6
T123 (net26 net42 net42 0) nfet L=5.46E-6 W=2.28E-6
R124 (net15 net40) R=4.6E0
T125 (net22 net32 net32 0) pfet L=4.58E-6 W=1.09E-6
T126 (net28 net13 net13 0) pfet L=1.94E-6 W=6.03E-6
C127 (net5 net19) C=0.8E-9
R128 (net6 net28) R=3.5E3
R129 (net20 net18) R=3.0E3
T130 (net17 net10 net10 0) pfet L=4.38E-6 W=1.60E-6
R131 (net13 net39) R=6.8E3
T132 (net29 net8 net8 0) pfet L=7.59E-6 W=8.33E-6
T133 (net31 net27 net27 0) pfet L=7.75E-6 W=5.51E-6
T134 (net2 net3 net3 0) nfet L=9.45E-6 W=3.10E-6
T135 (net4 net12 net12 0) nfet L=4.19E-6 W=1.78E-6
T136 (net15 net24 net24 0) nfet L=5.75E-6 W=8.20E-6
T137 (net5 net42 net42 0) pfet L=6.12E-6 W=2.16E-6
C138 (net8 net7) C=2.9E-14
C139 (vdd! net40) C=3.7E-5
R140 (net30 net15) R=4.7E3
T141 (net26 net8 net8 0) pfet L=8.70E-6 W=2.79E-6
T142 (net25 net38 net38 0) pfet L=7.01E-6 W=0.34E-6
R143 (net5 vdd!) R=5.6E2
T144 (net15 net35 net35 0) nfet L=4.95E-6 W=6.01E-6
R145 (net34 net27) R=3.1E4
T146 (net4 net19 net19 0) nfet L=7.70E-6 W=9.99E-6
T147 (net11 net7 net7 0) pfet L=1.95E-6 W=4.79E-6
C148 (net8 net43) C=7.5E-11
R149 (net40 net2) R=7.7E0
C150 (net34 vdd!) C=6.8E-8
T151 (net21 net36 net36 0) nfet L=8.58E-6 W=3.65E-6
T152 (net21 net24 net24 0) pfet L=4.96E-6 W=3.11E-6
R153 (net22 net28) R=4.2E3
T154 (net9 net8 net8 0) nfet L=3.57E-6 W=0.99E-6
T155 (net21 net7 net7 0) nfet L=4.90E-6 W=9.08E-6
R156 (net10 vdd!) R=4.9E0
C157 (net28 net7) C=7.8E-7
C158 (vdd! net42) C=5.3E-5
T159 (net15 net26 net26 0) pfet L=3.73E-6 W=6.76E-6
T160 (net36 net25 net25 0) nfet L=4.38E-6 W=9.37E-6
T161 (net10 0 0 0) nfet L=6.56E-6 W=9.08E-6
C162 (net40 net22) C=4.5E-8
T163 (net13 net23 net23 0) nfet L=2.50E-6 W=0.64E-6
C164 (net40 net30) C=5.3E-10
C165 (0 net10) C=8.9E-6
R166 (net18 net27) R=2.0E6
T167 (net4 net22 net22 0) pfet L=6.20E-6 W=9.22E-6
C168 (net4 net36) C=4.1E-13
C169 (net18 net38) C=3.1E-5
T170 (net6 net5 net5 0) nfet L=4.50E-6 W=9.48E-6
C171 (net28 net37) C=4.5E-10
T172 (net30 net3 net3 0) pfet L=5.02E-6 W=6.87E-6
T173 (net8 net42 net42 0) nfet L=6.63E-6 W=5.96E-6
C174 (net26 0) C=2.4E-11
T175 (net25 net2 net2 0) nfet L=3.64E-6 W=6.55E-6
C176 (net23 net18) C=6.7E-10
C177 (0 net13) C=4.9E-6
R178 (net15 net26) R=1.2E1
T179 (net43 net19 net19 0) pfet L=8.79E-6 W=5.19E-6
R180 (net42 net25) R=8.5E0
T181 (net12 net28 net28 0) nfet L=7.56E-6 W=7.83E-6
R182 (net30 net11) R=2.9E4
T183 (net4 net18 net18 0) pfet L=6.52E-6 W=1.54E-6
C184 (net5 net36) C=6.1E-14
R185 (net24 net35) R=1.8E2
T186 (net41 net12 net12 0) nfet L=9.38E-6 W=3.03E-6
T187 (net12 net19 net19 0) nfet L=2.88E-6 W=4.56E-6
R188 (net42 net8) R=2.3E5
T189 (net3 net31 net31 0) pfet L=9.81E-6 W=3.19E-6
R190 (net26 net42) R=2.6E1
T191 (net3 net9 net9 0) nfet L=9.43E-6 W=2.00E-6
R192 (net25 net30) R=5.4E0
R193 (net40 net5) R=3.5E6
R194 (0 net6) R=8.2E1
T195 (net25 net28 net28 0) nfet L=5.27E-6 W=5.17E-6
T196 (0 net39 net39 0) nfet L=3.50E-6 W=2.98E-6
R197 (net27 net43) R=1.2E3
R198 (0 net42) R=8.9E1
T199 (net6 vdd! vdd! 0) pfet L=8.25E-6 W=6.49E-6
C200 (net32 net28) C=9.9E-8
T201 (vdd! net28 net28 0) pfet L=5.25E-6 W=8.64E-6
T202 (net43 vdd! vdd! 0) nfet L=6.84E-6 W=5.08E-6
C203 (0 net39) C=7.3E-9
T204 (vdd! net32 net32 0) nfet L=4.19E-6 W=8.20E-6
C205 (net22 net40) C=0.1E-13
C206 (vdd! net14) C=1.8E-6
R207 (net1 net40) R=0.4E4
R208 (net13 0) R=5.9E3
C209 (net19 net12) C=4.5E-5
C210 (net34 net37) C=9.4E-14
T211 (net27 net20 net20 0) pfet L=5.09E-6 W=4.18E-6
T212 (net18 0 0 0) nfet L=7.39E-6 W=3.23E-6
T213 (net30 net11 net11 0) nfet L=1.57E-6 W=3.14E-6
R214 (net32 net35) R=7.6E2
T215 (net35 vdd! vdd! 0) nfet L=9.16E-6 W=3.67E-6
T216 (net7 net11 net11 0) nfet L=4.89E-6 W=2.83E-6
T217 (net21 net3 net3 0) nfet L=4.90E-6 W=3.94E-6
T218 (net17 net21 net21 0) nfet L=9.89E-6 W=1.37E-6
C219 (net29 net31) C=8.5E-7
C220 (0 net9) C=9.5E-8
R221 (net28 net42) R=2.1E6
T222 (vdd! net28 net28 0) nfet L=0.71E-6 W=1.91E-6
R223 (net7 net6) R=8.2E1
C224 (0 net12) C=9.3E-12
T225 (net4 net24 net24 0) pfet L=6.47E-6 W=2.38E-6
T226 (net3 net36 net36 0) pfet L=1.60E-6 W=5.64E-6
T227 (net31 net31 net31 0) pfet L=1.47E-6 W=3.38E-6
R228 (net10 net30) R=8.3E1
T229 (net1 net43 net43 0) pfet L=1.81E-6 W=6.21E-6
C230 (net31 net27) C=6.3E-13
C231 (vdd! net14) C=6.7E-8
R232 (net1 net9) R=4.4E3
T233 (net39 net14 net14 0) nfet L=5.28E-6 W=3.94E-6
C234 (net40 net37) C=2.6E-11
T235 (net17 net6 net6 0) pfet L=5.37E-6 W=6.90E-6
T236 (net28 0 0 0) nfet L=0.26E-6 W=0.79E-6
T237 (net6 net6 net6 0) pfet L=9.85E-6 W=4.48E-6
C238 (net12 net39) C=0.2E-10
C239 (net21 net29) C=5.3E-14
C240 (net42 net11) C=6.4E-12
C241 (net7 net12) C=2.2E-9
R242 (net9 net39) R=1.1E4
T243 (net13 0 0 0) nfet L=7.63E-6 W=3.10E-6
T244 (net11 net14 net14 0) nfet L=2.53E-6 W=3.10E-6
T245 (net23 vdd! vdd! 0) nfet L=3.01E-6 W=7.63E-6
C246 (net11 net22) C=1.7E-11
R247 (net27 0) R=0.2E6
R248 (net38 net37) R=3.1E4
T249 (net5 net37 net37 0) nfet L=5.16E-6 W=7.48E-6
C250 (net13 net21) C=4.4E-7
T251 (0 net27 net27 0) pfet L=7.39E-6 W=1.76E-6
C252 (net43 net41) C=1.9E-14
T253 (net29 net36 net36 0) pfet L=0.12E-6 W=9.14E-6
C254 (net9 net8) C=5.8E-13
C255 (net3 net34) C=3.4E-12
T256 (net22 net10 net10 0) pfet L=5.52E-6 W=5.53E-6
T257 (net34 net3 net3 0) nfet L=1.81E-6 W=7.06E-6
C258 (net20 net1) C=8.7E-12
C259 (vdd! net42) C=9.1E-6
R260 (0 net28) R=3.6E0
T261 (net3 net37 net37 0) pfet L=5.73E-6 W=1.97E-6
C262 (net7 net24) C=1.0E-10
T263 (net7 net42 net42 0) nfet L=4.30E-6 W=5.64E-6
C264 (net15 net2) C=2.7E-10
C265 (net11 net26) C=0.5E-6
R266 (net35 net7) R=6.8E6
T267 (net4 0 0 0) nfet L=2.07E-6 W=7.39E-6
T268 (net6 net13 net13 0) nfet L=3.76E-6 W=1.28E-6
T269 (net24 net29 net29 0) nfet L=7.38E-6 W=6.89E-6
T270 (net12 net38 net38 0) pfet L=9.91E-6 W=0.43E-6
T271 (net36 net11 net11 0) pfet L=2.12E-6 W=3.72E-6
R272 (net26 net20) R=6.9E1
C273 (net43 net21) C=1.1E-13
T274 (net4 net11 net11 0) nfet L=7.31E-6 W=8.95E-6
T275 (net30 net36 net36 0) pfet L=0.49E-6 W=2.85E-6
T276 (net31 net11 net11 0) pfet L=5.50E-6 W=6.81E-6
T277 (net35 net20 net20 0) pfet L=6.81E-6 W=1.75E-6
T278 (net29 0 0 0) pfet L=7.30E-6 W=8.51E-6
T279 (net6 net24 net24 0) pfet L=6.58E-6 W=1.59E-6
T280 (net23 net1 net1 0) pfet L=1.80E-6 W=2.46E-6
C281 (net20 net6) C=3.8E-8
C282 (vdd! net39) C=2.1E-11
C283 (net39 net24) C=1.7E-11
T284 (net19 net35 net35 0) nfet L=0.22E-6 W=0.98E-6
T285 (net13 net41 net41 0) nfet L=8.95E-6 W=3.22E-6
T286 (net36 net23 net23 0) nfet L=8.41E-6 W=7.82E-6
T287 (net12 0 0 0) pfet L=2.42E-6 W=7.59E-6
R288 (net29 net17) R=2.1E6
C289 (net11 net13) C=0.2E-10
R290 (net12 net9) R=3.2E6
T291 (net6 net13 net13 0) nfet L=3.36E-6 W=6.17E-6
T292 (net11 net26 net26 0) nfet L=7.24E-6 W=0.66E-6
T293 (net27 net43 net43 0) nfet L=5.08E-6 W=1.59E-6
T294 (net14 net6 net6 0) pfet L=1.62E-6 W=2.88E-6
T295 (net32 net23 net23 0) pfet L=3.78E-6 W=9.04E-6
T296 (net1 net2 net2 0) nfet L=7.55E-6 W=3.79E-6
T297 (net38 net11 net11 0) nfet L=0.25E-6 W=1.08E-6
T298 (net20 net17 net17 0) nfet L=8.06E-6 W=1.39E-6
R299 (0 net2) R=5.3E3
T300 (net9 0 0 0) pfet L=1.78E-6 W=0.29E-6
T301 (net28 net37 net37 0) nfet L=0.33E-6 W=6.61E-6
T302 (net12 net40 net40 0) nfet L=8.08E-6 W=4.48E-6
T303 (net1 net37 net37 0) pfet L=9.79E-6 W=0.80E-6
C304 (net32 net29) C=0.9E-5
C305 (net37 0) C=1.5E-6
R306 (net39 net15) R=9.1E3
C307 (net4 net17) C=1.0E-7
T308 (0 net1 net1 0) pfet L=9.52E-6 W=5.89E-6
R309 (net3 net4) R=3.5E0
C310 (net3 net4) C=5.3E-10
T311 (net42 net28 net28 0) pfet L=7.92E-6 W=5.69E-6
R312 (net8 net4) R=4.2E1
C313 (net10 net2) C=3.1E-10
T314 (net34 net26 net26 0) pfet L=8.82E-6 W=3.74E-6
C315 (net41 net32) C=8.9E-9
R316 (net30 net27) R=6.8E2
T317 (net25 net30 net30 0) pfet L=8.04E-6 W=0.51E-6
T318 (net12 net25 net25 0) pfet L=9.27E-6 W=2.33E-6
T319 (net29 net38 net38 0) nfet L=8.93E-6 W=6.46E-6
T320 (net26 0 0 0) nfet L=9.69E-6 W=2.57E-6
C321 (net22 net21) C=1.6E-12
T322 (net20 vdd! vdd! 0) nfet L=7.06E-6 W=4.12E-6
R323 (net35 net28) R=6.2E1
R324 (net25 net3) R=4.5E6
T325 (net39 net41 net41 0) pfet L=4.22E-6 W=4.46E-6
C326 (net17 net19) C=2.0E-5
C327 (vdd! net2) C=5.4E-8
T328 (net6 0 0 0) pfet L=1.95E-6 W=7.80E-6
R329 (net43 net18) R=5.1E6
R330 (0 net34) R=3.1E3
T331 (net34 net35 net35 0) pfet L=4.39E-6 W=6.69E-6
T332 (net19 net13 net13 0) pfet L=2.54E-6 W=7.73E-6
R333 (net32 net37) R=3.6E2
C334 (net10 net7) C=8.7E-12
R335 (net41 net38) R=4.2E6
T336 (net12 net14 net14 0) pfet L=5.96E-6 W=8.17E-6
T337 (net21 net23 net23 0) nfet L=3.53E-6 W=1.39E-6
R338 (net30 net15) R=8.8E5
C339 (net11 net38) C=5.5E-10
T340 (net25 net36 net36 0) pfet L=2.86E-6 W=3.99E-6
C341 (net14 net28) C=9.5E-13
T342 (net15 net5 net5 0) pfet L=4.67E-6 W=0.79E-6
C343 (vdd! net12) C=2.8E-7
C344 (net17 net3) C=5.0E-9
T345 (net41 net43 net43 0) nfet L=5.42E-6 W=1.88E-6
C346 (0 net11) C=4.2E-8
C347 (net22 net27) C=9.6E-8
C348 (net25 net7) C=1.0E-8
T349 (net6 net40 net40 0) nfet L=1.37E-6 W=2.10E-6
T350 (net20 net24 net24 0) pfet L=0.73E-6 W=6.50E-6
T351 (net29 net18 net18 0) pfet L=9.56E-6 W=8.83E-6
T352 (net41 net26 net26 0) nfet L=2.94E-6 W=4.03E-6
T353 (net39 0 0 0) pfet L=2.86E-6 W=8.39E-6
C354 (net36 vdd!) C=4.3E-11
T355 (net24 net11 net11 0) nfet L=5.71E-6 W=9.54E-6
T356 (vdd! net42 net42 0) nfet L=0.85E-6 W=7.19E-6
R357 (net12 net36) R=1.7E2
C358 (net8 net39) C=9.6E-7
R359 (0 vdd!) R=4.9E4
R360 (net10 net25) R=3.7E2
T361 (net40 vdd! vdd! 0) pfet L=1.08E-6 W=9.15E-6
R362 (net35 net27) R=7.2E6
T363 (net40 net22 net22 0) pfet L=2.57E-6 W=5.52E-6
T364 (net37 0 0 0) pfet L=0.37E-6 W=0.78E-6
T365 (net9 0 0 0) pfet L=9.42E-6 W=9.46E-6
T366 (vdd! net1 net1 0) nfet L=2.58E-6 W=0.13E-6
T367 (vdd! net23 net23 0) pfet L=1.45E-6 W=0.75E-6
T368 (net34 net27 net27 0) pfet L=6.76E-6 W=4.25E-6
T369 (net32 net1 net1 0) nfet L=5.46E-6 W=3.96E-6
T370 (net42 net4 net4 0) pfet L=5.36E-6 W=1.55E-6
R371 (net43 net36) R=3.6E1
T372 (net36 net24 net24 0) nfet L=6.41E-6 W=6.44E-6
R373 (net17 net43) R=3.1E3
T374 (net9 net15 net15 0) pfet L=8.93E-6 W=4.52E-6
T375 (net38 net26 net26 0) pfet L=7.15E-6 W=2.08E-6
T376 (net34 net5 net5 0) nfet L=1.02E-6 W=3.07E-6
T377 (0 net27 net27 0) nfet L=1.52E-6 W=1.31E-6
T378 (net19 net21 net21 0) nfet L=0.29E-6 W=7.46E-6
T379 (net9 net21 net21 0) pfet L=8.85E-6 W=4.34E-6
T380 (vdd! net22 net22 0) pfet L=0.22E-6 W=2.00E-6
T381 (net40 net23 net23 0) pfet L=0.97E-6 W=8.87E-6
R382 (net2 vdd!) R=0.4E6
R383 (net7 net36) R=1.8E1
T384 (net10 net27 net27 0) pfet L=3.64E-6 W=4.98E-6
R385 (net18 net39) R=3.6E1
C386 (net29 net43) C=3.3E-11
T387 (net4 net20 net20 0) pfet L=8.08E-6 W=4.07E-6
R388 (vdd! net18) R=7.1E3
C389 (net22 net40) C=0.5E-14
R390 (net8 net34) R=4.7E6
R391 (net7 net2) R=9.0E1
R392 (net34 net43) R=5.7E0
T393 (net37 net14 net14 0) nfet L=1.35E-6 W=6.09E-6
C394 (net31 net9) C=4.0E-7
R395 (net13 net12) R=6.2E5
C396 (net1 net24) C=3.4E-10
T397 (net18 net18 net18 0) pfet L=4.08E-6 W=4.91E-6
T398 (net38 net42 net42 0) nfet L=4.27E-6 W=6.67E-6
T399 (net12 net18 net18 0) pfet L=4.70E-6 W=7.20E-6
C400 (net31 net21) C=2.8E-7
T401 (net18 net26 net26 0) nfet L=1.78E-6 W=5.01E-6
R402 (net36 net42) R=2.1E0
R403 (net29 net26) R=9.9E5
C404 (net13 net22) C=3.9E-6
T405 (net30 net27 net27 0) nfet L=4.50E-6 W=7.76E-6
T406 (net2 net10 net10 0) pfet L=7.82E-6 W=2.28E-6
R407 (net42 net37) R=5.7E4
C408 (net17 net41) C=3.3E-14
R409 (net21 net5) R=1.6E6
T410 (vdd! net17 net17 0) pfet L=3.12E-6 W=3.74E-6
T411 (net39 net20 net20 0) nfet L=8.78E-6 W=5.83E-6
R412 (net11 net1) R=4.3E0
T413 (net22 vdd! vdd! 0) nfet L=7.91E-6 W=6.64E-6
R414 (net15 net29) R=4.9E4
R415 (net17 net19) R=2.3E2
R416 (net40 vdd!) R=6.3E5
R417 (net13 net41) R=8.5E2
R418 (net7 net35) R=3.2E2
R419 (net3 net28) R=5.3E4
T420 (net41 net14 net14 0) nfet L=1.76E-6 W=7.93E-6
R421 (net6 net9) R=8.2E5
C422 (net20 net7) C=2.9E-5
R423 (0 net7) R=4.3E2
T424 (net3 net19 net19 0) nfet L=0.31E-6 W=1.55E-6
T425 (net32 net32 net32 0) pfet L=9.48E-6 W=2.84E-6
T426 (net38 net2 net2 0) pfet L=0.50E-6 W=1.70E-6
R427 (net10 net8) R=7.3E4
C428 (net41 net39) C=8.6E-13
T429 (net35 net20 net20 0) nfet L=6.82E-6 W=8.23E-6
T430 (net43 net14 net14 0) nfet L=6.83E-6 W=5.74E-6
C431 (vdd! net32) C=3.7E-7
C432 (net1 net18) C=3.0E-5
R433 (net36 vdd!) R=5.1E0
T434 (net31 net24 net24 0) nfet L=2.57E-6 W=4.39E-6
R435 (vdd! net13) R=2.0E1
R436 (net18 vdd!) R=4.2E6
R437 (net6 net3) R=7.4E6
R438 (net32 net36) R=8.4E2
T439 (net8 net8 net8 0) nfet L=6.65E-6 W=6.20E-6
T440 (net15 net20 net20 0) nfet L=6.34E-6 W=4.90E-6
T441 (net29 0 0 0) pfet L=4.00E-6 W=8.62E-6
R442 (net38 net41) R=6.8E1
T443 (net23 vdd! vdd! 0) pfet L=2.84E-6 W=8.28E-6
T444 (net37 net19 net19 0) nfet L=9.11E-6 W=2.57E-6
T445 (net20 net24 net24 0) nfet L=3.80E-6 W=4.37E-6
C446 (net25 net39) C=7.2E-13
T447 (net10 net35 net35 0) pfet L=9.02E-6 W=2.70E-6

