T1 (net17 net17 net17 0) nfet L=2.40E-6 W=2.98E-6
T2 (0 net14 net14 0) pfet L=1.91E-6 W=9.18E-6
T3 (net22 net8 net8 0) pfet L=3.45E-6 W=1.15E-6
R4 ( net9 net29)  R=9.9E1
T5 ( net29 net23 vdd! vdd!)  pfet  L=6.18E-6 W=2.94E-6
T6 ( net25 net23 vdd! vdd!)  pfet  L=6.18E-6 W=2.94E-6
T7 ( 0 net29 net23 vdd!)  pfet  L=6.18E-6 W=2.94E-6
T8 (net2 net27 net27 0) pfet L=7.60E-6 W=8.62E-6
T9 ( net9 net9 vdd! vdd!)  pfet  L=5.83E-6 W=2.53E-6
T10 ( net18 net9 vdd! vdd!)  pfet  L=5.83E-6 W=2.53E-6
R11 ( net18 net27)  R=4.8E5
T12 (net28 net28 net28 0) pfet L=8.61E-6 W=2.50E-6
T13 (net11 net7 net7 0) nfet L=4.69E-6 W=7.34E-6
C14 (net30 net15) C=9.4E-13
R15 (net27 net32) R=9.0E5
T16 (net33 net14 net14 0) nfet L=6.03E-6 W=2.76E-6
C17 (net11 net3) C=3.6E-5
R18 (net21 net26) R=1.9E2
T19 (net5 0 0 0) pfet L=0.18E-6 W=8.82E-6
R20 (net27 vdd!) R=3.2E3
R21 (net26 0) R=9.7E6
T22 (net3 net3 net3 0) nfet L=6.95E-6 W=4.76E-6
T23 (net33 0 0 0) nfet L=0.72E-6 W=1.25E-6
T24 (net4 net4 net4 0) nfet L=1.36E-6 W=1.03E-6
R25 (net7 net22) R=6.0E0
C26 (net17 net25) C=0.5E-14
T27 (net31 net5 net5 0) nfet L=8.85E-6 W=1.17E-6
T28 (net3 net30 net30 0) nfet L=2.45E-6 W=0.81E-6
T29 (net2 net32 net32 0) pfet L=3.18E-6 W=8.11E-6
C30 (vdd! net11) C=4.6E-13
T31 (net1 net8 net8 0) nfet L=7.38E-6 W=6.34E-6
T32 (net6 net2 net2 0) pfet L=8.78E-6 W=8.63E-6
R33 (net24 net30) R=5.1E0
C34 (net5 net14) C=0.3E-9
T35 (net7 net10 net10 0) nfet L=5.46E-6 W=0.27E-6
T36 (net4 net11 net11 0) nfet L=9.24E-6 W=5.82E-6
C37 (net9 vdd!) C=8.9E-6
C38 (net14 net6) C=10.0E-8
R39 (net19 net20) R=0.7E6
C40 (net24 net30) C=1.8E-7
C41 (net8 net3) C=7.9E-11
T42 (0 net13 net13 0) pfet L=5.89E-6 W=4.49E-6
R43 (net17 net13) R=4.7E3
C44 (net7 net20) C=1.7E-6
C45 (net20 net12) C=4.8E-10
T46 (0 net2 net2 0) nfet L=3.77E-6 W=2.03E-6
C47 (net30 vdd!) C=6.3E-10
C48 (net19 net17) C=3.8E-6
T49 (net31 net15 net15 0) nfet L=4.11E-6 W=3.87E-6

